US08871753B2
Step A: tert-Butyl {3-[(3-aminophenyl)ethynyl]phenyl}carbamate
A solution of 3-ethynylaniline (1.16 g, 9.87 mmol) and tert-butyl (3-iodophenyl)carbamate (3.0 g, 9.4 mmol) in THF (28 mL) was treated with bis(triphenylphosphine)palladium(II) chloride (330 mg, 0.47 mmol), copper(I) iodide (140 mg, 0.75 mmol) and N,N-diisopropylethylamine (3.27 ml, 18.8 mmol), and stirred at 25° C. overnight. The reaction was diluted with water and extracted with ethyl acetate three times. The combined organic solutions were dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.42 g, 49%). LCMS for C19H21N2O2 (M+H)+: m/z=309.1.

reactant | 3-ethynylaniline | 9.87 mmol, 1.16 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | tert-butyl (3-iodophenyl)carbamate | 9.4 mmol, 3.0 g | IC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H14INO2
reactant | N,N-diisopropylethylamine | 18.8 mmol, 3.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.47 mmol, 330 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.75 mmol, 140 mg | [Cu]I
product | tert-Butyl {3-[(3-aminophenyl)ethynyl]phenyl}carbamate | 1.42 g, 49% | NC=1C=C(C=CC1)C#CC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H20N2O2
